* D:\DAS\DAS.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 4/21/2016 8:19:03 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
P1  GNDD VPP CANL CANH CONN_01X04		
P2  BKGD GNDD ? ~RST ? +5VD CONN_02X03		
P4  Net-_D7-Pad2_ Net-_D7-Pad1_ CONN_01X02		
U6  Net-_R9-Pad2_ Net-_U6-Pad2_ Net-_U6-Pad2_ /Mux0 Net-_D7-Pad2_ K- Net-_D7-Pad1_ K+ ASSR_45_1228_45_002		
R9  +5VD Net-_R9-Pad2_ 470R		
P5  Net-_D8-Pad2_ Net-_D8-Pad1_ CONN_01X02		
U7  Net-_R12-Pad2_ Net-_U7-Pad2_ Net-_U7-Pad2_ /Mux1 Net-_D8-Pad2_ K- Net-_D8-Pad1_ K+ ASSR_45_1228_45_002		
R12  +5VD Net-_R12-Pad2_ 470R		
P6  Net-_D9-Pad2_ Net-_D9-Pad1_ CONN_01X02		
R15  +5VD Net-_R15-Pad2_ 470R		
P7  Net-_D10-Pad2_ Net-_D10-Pad1_ CONN_01X02		
U9  Net-_R18-Pad2_ Net-_U9-Pad2_ Net-_U9-Pad2_ /Mux3 Net-_D10-Pad2_ K- Net-_D10-Pad1_ K+ ASSR_45_1228_45_002		
R18  +5VD Net-_R18-Pad2_ 470R		
U1  Net-_C1-Pad1_ GNDD +5VD 7805		
C1  Net-_C1-Pad1_ GNDD 1000u		
C2  Net-_C1-Pad1_ GNDD 10u		
C4  +5VD GNDD 1u		
U8  Net-_R15-Pad2_ Net-_U8-Pad2_ Net-_U8-Pad2_ /Mux2 Net-_D9-Pad2_ K- Net-_D9-Pad1_ K+ ASSR_45_1228_45_002		
R5  Net-_D5-Pad3_ K- 681R		
D5  GNDADC +3.3VADC Net-_D5-Pad3_ BAV199LT1G		
R6  Net-_C19-Pad1_ Net-_D5-Pad3_ 301R		
C19  Net-_C19-Pad1_ GNDADC 1n		
C20  Net-_C19-Pad1_ Net-_C20-Pad2_ 10n		
R7  Net-_D6-Pad3_ K+ 681R		
D6  GNDADC +3.3VADC Net-_D6-Pad3_ BAV199LT1G		
R8  Net-_C20-Pad2_ Net-_D6-Pad3_ 301R		
U4  Net-_U3-Pad13_ ? Net-_U3-Pad14_ ? Net-_C20-Pad2_ Net-_C19-Pad1_ ? K- ? ? ? GNDADC +3.3VADC +5VA Net-_U3-Pad11_ Net-_U3-Pad12_ AD7792BRUZ		
C17  +5VA GNDA 10u		
C18  +5VA GNDA 0.1u		
C14  +5VA GNDA 0.1u		
C13  +5VA GNDA 10u		
C11  +3.3VADC GNDADC 10u		
C12  +3.3VADC GNDADC 0.1u		
D3  +3.3VADC GNDADC MM3Z3V6S		
C9  +3.3VADC GNDADC 1u		
C10  +5VA GNDADC 1u		
C5  +5VD GNDD 10u		
D2  +12V GNDD 1SMA30CA		
C8  +12V GNDD 0.01u		
D4  +5VA GNDA MM3Z5V6S		
C6  +5VD GNDD 10u		
C7  +5VD GNDD 0.1u		
C22  +5VD GNDD 0.1u		
C26  +5VD GNDD 10u		
C25  +5VD GNDD 0.1u		
C29  +5VD GNDD 10u		
C28  +5VD GNDD 0.1u		
C32  +5VD GNDD 10u		
C31  +5VD GNDD 0.1u		
P8  Net-_D11-Pad2_ Net-_D11-Pad1_ CONN_01X02		
U10  Net-_R21-Pad2_ Net-_U10-Pad2_ Net-_U10-Pad2_ /Mux4 Net-_D11-Pad2_ K- Net-_D11-Pad1_ K+ ASSR_45_1228_45_002		
R21  +5VD Net-_R21-Pad2_ 470R		
P9  Net-_D12-Pad2_ Net-_D12-Pad1_ CONN_01X02		
U11  Net-_R24-Pad2_ Net-_U11-Pad2_ Net-_U11-Pad2_ /Mux5 Net-_D12-Pad2_ K- Net-_D12-Pad1_ K+ ASSR_45_1228_45_002		
R24  +5VD Net-_R24-Pad2_ 470R		
P10  Net-_D13-Pad2_ Net-_D13-Pad1_ CONN_01X02		
R27  +5VD Net-_R27-Pad2_ 470R		
P12  Net-_D16-Pad2_ Net-_D16-Pad1_ CONN_01X02		
U14  Net-_R33-Pad2_ Net-_U14-Pad2_ Net-_U14-Pad2_ /Mux7 Net-_D16-Pad2_ K- Net-_D16-Pad1_ K+ ASSR_45_1228_45_002		
R33  +5VD Net-_R33-Pad2_ 470R		
U12  Net-_R27-Pad2_ Net-_U12-Pad2_ Net-_U12-Pad2_ /Mux6 Net-_D13-Pad2_ K- Net-_D13-Pad1_ K+ ASSR_45_1228_45_002		
C35  +5VD GNDD 10u		
C34  +5VD GNDD 0.1u		
C38  +5VD GNDD 10u		
C37  +5VD GNDD 0.1u		
C43  +5VD GNDD 10u		
C42  +5VD GNDD 0.1u		
C50  +5VD GNDD 10u		
C49  +5VD GNDD 0.1u		
R1  +5VA Net-_R1-Pad2_ 4k7		
U2  +5VA GNDADC Net-_R1-Pad2_ ? +3.3VADC LP5907_DBV_5		
U19  /Addr0 /Addr1 /Addr2 GNDD GNDD /AddrEN /Mux7 GNDD /Mux6 /Mux5 /Mux4 /Mux3 /Mux2 /Mux1 /Mux0 +5VD SN74HC138_PW_16		
C57  +5VD GNDD 1u		
C56  +5VD GNDD 0.1u		
C15  +5VD GNDD 10u		
C16  +5VD GNDD 0.1u		
U5  /CS1 Net-_U3-Pad6_ GNDD /MISO +5VD SN74LV1T125DBVR		
R2  Net-_R2-Pad1_ +5VA 4k7		
U3  +5VD GNDD /CS1 /SCLK /MOSI Net-_U3-Pad6_ ? GNDD GNDA Net-_R2-Pad1_ Net-_U3-Pad11_ Net-_U3-Pad12_ Net-_U3-Pad13_ Net-_U3-Pad14_ GNDA +5VA ADUM5401ARWZ		
R3  GNDA Net-_R2-Pad1_ NC		
D7  Net-_D7-Pad1_ Net-_D7-Pad2_ GNDA NUP2115L		
D8  Net-_D8-Pad1_ Net-_D8-Pad2_ GNDA NUP2115L		
D9  Net-_D9-Pad1_ Net-_D9-Pad2_ GNDA NUP2115L		
D10  Net-_D10-Pad1_ Net-_D10-Pad2_ GNDA NUP2115L		
D11  Net-_D11-Pad1_ Net-_D11-Pad2_ GNDA NUP2115L		
D12  Net-_D12-Pad1_ Net-_D12-Pad2_ GNDA NUP2115L		
D13  Net-_D13-Pad1_ Net-_D13-Pad2_ GNDA NUP2115L		
D16  Net-_D16-Pad1_ Net-_D16-Pad2_ GNDA NUP2115L		
U15  /ADP7 +5VD GNDD Net-_C46-Pad1_ Net-_C45-Pad1_ ~RST TxD RxD Net-_D14-Pad1_ /SCLK /MOSI /MISO Net-_U13-Pad1_ Net-_U13-Pad4_ /Addr0 /Addr1 /Addr2 /AddrEN GPIO0 GPIO1 BKGD /CS0 /ADP0 /CS1 /ADP1 /ADP2 /ADP3 GNDD VDDA /ADP4 /ADP5 /ADP6 MC9S08DZ_LC		
C41  +5VD GNDD 10u		
C40  +5VD GNDD 0.1u		
P3  GNDD RxD TxD CONN_01X03		
Y1  Net-_C45-Pad1_ Net-_C46-Pad1_ 8MHz		
R30  Net-_C45-Pad1_ Net-_C46-Pad1_ 1M		
C46  Net-_C46-Pad1_ GNDD 10p		
C45  Net-_C45-Pad1_ GNDD 10p		
C60  VDDA GNDD 1u		
C61  +5VD GNDD 1u		
R38  +5VD Net-_R38-Pad2_ 4k7		
U17  +5VD GNDD Net-_R38-Pad2_ ? VDDA LP5907_DBV_5		
C59  GNDD VDDA 1u		
C58  GNDD VDDA 0.1u		
U20  Net-_R44-Pad2_ Net-_U20-Pad2_ GNDD GNDD Net-_R43-Pad2_ Net-_R41-Pad2_ Net-_R40-Pad2_ Net-_C63-Pad1_ SST25VF512A-33-4		
C65  Net-_C63-Pad1_ GNDD 10u		
C64  Net-_C63-Pad1_ GNDD 0.1u		
C66  +5VD GNDD 10u		
C67  +5VD GNDD 0.1u		
U21  /CS0 Net-_U20-Pad2_ GNDD /MISO +5VD SN74LV1T125DBVR		
R40  Net-_C63-Pad1_ Net-_R40-Pad2_ 4k7		
R41  /SCLK Net-_R41-Pad2_ 1k		
C63  Net-_C63-Pad1_ GNDD 1u		
C62  +5VD GNDD 1u		
R39  +5VD Net-_R39-Pad2_ 4k7		
U18  +5VD GNDD Net-_R39-Pad2_ ? Net-_C63-Pad1_ LP5907_DBV_5		
R43  /MOSI Net-_R43-Pad2_ 1k		
R44  /CS0 Net-_R44-Pad2_ 1k		
D1  Net-_C1-Pad1_ +12V MBR0530		
R37  GNDD GNDD 0		
R10  VDDA /ADP7 4.99K		
C3  +5VD GNDD 0.1u		
C21  GNDADC Net-_C20-Pad2_ 1n		
R13  VDDA /ADP6 4.99K		
R16  VDDA /ADP5 4.99K		
R19  VDDA /ADP4 4.99K		
R22  VDDA /ADP3 4.99K		
R25  VDDA /ADP2 4.99K		
R28  VDDA /ADP1 4.99K		
R34  VDDA /ADP0 4.99K		
R35  GNDD /ADP0 10K		
U13  Net-_U13-Pad1_ GNDD +5VD Net-_U13-Pad4_ ? CANL CANH GNDD MAX13053ESA+		
C51  GNDD +5VD 10u		
C52  GNDD +5VD 0.1u		
R42  GNDD /AddrEN 4k7		
R4  GNDA GNDADC 0		
C53  VDDA GNDD 0.1u		
C39  VDDA GNDD 0.1u		
C44  VDDA GNDD 0.1u		
C36  VDDA GNDD 0.1u		
C33  VDDA GNDD 0.1u		
C30  VDDA GNDD 0.1u		
C27  VDDA GNDD 0.1u		
C24  VDDA GNDD 0.1u		
C23  +5VD GNDD 10u		
D17  CANH CANL GNDD NUP2115L		
D14  Net-_D14-Pad1_ Net-_D14-Pad2_ Led		
D15  GNDD Net-_D15-Pad2_ Led		
R31  +5VD Net-_D14-Pad2_ 1k5		
R32  +5VD Net-_D15-Pad2_ 1k5		
P11  GNDD Net-_P11-Pad2_ CANL CANH CONN_01X04		
U16  Net-_R36-Pad1_ GPIO1 VPP Net-_P11-Pad2_ G3VM-61ER		
C47  +5VD GNDD 10u		
C48  +5VD GNDD 0.1u		
C54  +5VD GNDD 10u		
C55  +5VD GNDD 0.1u		
R36  Net-_R36-Pad1_ +5VD 750		
R29  GNDD /ADP1 10K		
R26  GNDD /ADP2 10K		
R23  GNDD /ADP3 10K		
R20  GNDD /ADP4 10K		
R17  GNDD /ADP5 10K		
R14  GNDD /ADP6 10K		
R11  GNDD /ADP7 10K		
U23  GNDD GPIO1 +5VD DS18B20		
R45  +5VD GPIO1 4k7		
C68  +5VD GNDD 0.1u		
U22  VPP GNDD +12V ? /EN ? G5V_45_1_32_12DC		
P13  GNDD /PWM /EN CONN_01X03		
R46  GNDD GPIO0 4k7		
R47  /PWM GPIO0 6k8		
R49  GNDD Net-_R43-Pad2_ 2k2		
R50  GNDD Net-_R41-Pad2_ 2k2		
R48  GNDD Net-_R44-Pad2_ 2k2		
D18  Net-_C63-Pad1_ GNDD MM3Z3V6S		

.end
